US07132551B2
(1-Benzyl-azepan-3-yl)-methanol (0.0922 g, 0.4192 mmol) dissolved in MeOH (1 mL) was added to a stirring suspension of 10% Pd/C (14.4 mg) in 5 mL MeOH. The reaction was purged with H2, and the reaction was stirred at room temperature overnight. The reaction was judged complete by 1H-NMR analysis of an aliquot from the reaction. The reaction was filtered through a pad of Celite wet with MeOH and was rinsed with MeOH, and concentrated in vacuo to obtain pure azepan-3-yl-methanol in 60% yield (0.0323 g), which was used in the next step without further purification. 1H NMR (CDCl3, 300 MHz, partial) 3.14–2.70 (4H, m), 1.92–1.73 (4H, m), 1.68–1.42 (3H, m) ppm. 13C NMR (CDCl3, 75 MHz) 67.32, 52.01, 50.33, 41.31, 31.05, 29.76, 25.44 ppm.

reactant | (1-Benzyl-azepan-3-yl)-methanol | 0.4192 mmol, 0.0922 g | C(C1=CC=CC=C1)N1CC(CCCC1)CO | C14H21NO
solvent | MeOH | 1 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 14.4 mg | [Pd] | Pd
product | azepan-3-yl-methanol | 60% yield | N1CC(CCCC1)CO | C7H15NO
